US05849916
Preparation of 3-Ethoxy-2-methylacrolein dimethylhydrazone, (E)-- and (Z)--
A mixture of 3-ethoxy-2-methyl-2-propenal, (E)-- and (Z)-- (4.0 g, 35 mmol), 1,1-dimethylhydrazine (2.73 g, 46 mmol) and acetic acid (0.04 g, 0.7 mmol) in diethyl ether is refluxed for one hour, cooled, washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title product as a yellow oil.

reactant | 3-ethoxy-2-methyl-2-propenal | C(C)OC=C(C=O)C | C6H10O2
reactant | 1,1-dimethylhydrazine | 46 mmol, 2.73 g | CN(N)C | C2H8N2
reactant | acetic acid | 0.7 mmol, 0.04 g | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Ethoxy-2-methylacrolein dimethylhydrazone | CN(N=CC(=COCC)C)C | C8H16N2O
